US04780480
2,3-dihydrobenzofuran-5-ylthioacetic acid morpholide (5.0 g) was heated at reflux in a solution of acetic acid (20 ml), concentrated sulfuric acid (3.0 ml) and water (4.5 ml). After 3 hours the reaction mixture was cooled and added to water. The product was extracted with ethyl acetate and the combined extracts washed five times with water. The organic solution was then extracted with aqueous saturated sodium bicarbonate solution. The aqueous solution was then acidified and extracted with ethyl acetate. The combined extracts were dried over sodium sulfate and evaporated to give a residue which was recrystallized from acetone/hexane to give 2,3-dihydrobenzofuran-5-ylacetic acid, m.p.--96°-98° C.

reactant | 2,3-dihydrobenzofuran-5-ylthioacetic acid morpholide | 5.0 g | O1CCC2=C1C=CC(=C2)CC(=S)N2CCOCC2 | C14H17NO2S
reactant | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
solvent | water | 4.5 ml | O | H2O
product | 2,3-dihydrobenzofuran-5-ylacetic acid | O1CCC2=C1C=CC(=C2)CC(=O)O | C10H10O3
